US07939548B2
A mixture of chloride 6-chloro-2-(3-fluorophenethylamino)-N-(pyridin-3-ylmethyl)nicotinamide (100 mg, 0.260 mmol), trans-1-propen-1-yl boronic acid (27 mg, 0.312 mmol), PdCl2(dppf)2 (14 mg, 0.026 mmol), 2N K2CO3(0.39 mL, 0.78 mmol) and THF (1.5 mL) was stirred at 125° C. for 30 min. The mixture was filtered through the silica gel pad and washed with EtOAc. The filtrate was concentrated to dryness and purified on RP-HPLC using a mixture of acetonitrile and H2O to give (E)-2-(3-fluorophenethylamino)-6-(prop-1-enyl)-N-(pyridin-3-ylmethyl)nicotinamide as a pale yellow solid (59 mg, 86%). LRMS (M+H+) m/z 391.2.

reactant | chloride 6-chloro-2-(3-fluorophenethylamino)-N-(pyridin-3-ylmethyl)nicotinamide | 0.260 mmol, 100 mg | ClC1=NC(=C(C(=O)NCC=2C=NC=CC2)C=C1)NCCC1=CC(=CC=C1)F.[Cl-]
reactant | trans-1-propen-1-yl boronic acid | 0.312 mmol, 27 mg | C(=C\C)/B(O)O | C3H7BO2
reactant | K2CO3 | 0.78 mmol, 2N, 0.39 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | PdCl2(dppf)2 | 0.026 mmol, 14 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | (E)-2-(3-fluorophenethylamino)-6-(prop-1-enyl)-N-(pyridin-3-ylmethyl)nicotinamide | 59 mg, 86% | FC=1C=C(CCNC2=C(C(=O)NCC=3C=NC=CC3)C=CC(=N2)\C=C\C)C=CC1 | C23H23FN4O
